US09447106B2
Step 4: 5-Amino-1-(1-benzyl-4-(hydroxymethyl)piperidin-4-yl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile
To a solution of ethyl 4-(5-amino-4-cyano-3-(4-phenoxyphenyl)-1H-pyrazol-1-yl)-1-benzylpiperidine-4-carboxylate (52 mg, 0.1 mmol) in MeOH (5 mL) was added NaBH4 (8 mg, 0.2 mmol). After 10 min, the reaction was quenched with water (5 mL) and extracted with EA (10 mL×3). The organic combined layers was dried over Na2SO4 and concentrated to give the crude product (34 mg, 70.9%) as an off-white solid. MS (ESI, m/e) [M+1]+ 480.0.

reactant | ethyl 4-(5-amino-4-cyano-3-(4-phenoxyphenyl)-1H-pyrazol-1-yl)-1-benzylpiperidine-4-carboxylate | 0.1 mmol, 52 mg | NC1=C(C(=NN1C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C31H31N5O3
reactant | NaBH4 | 0.2 mmol, 8 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Amino-1-(1-benzyl-4-(hydroxymethyl)piperidin-4-yl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 34 mg, 70.9% | NC1=C(C(=NN1C1(CCN(CC1)CC1=CC=CC=C1)CO)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C29H29N5O2
